US09145437B2
Alternative preparation of 1-isobutyl-3-[2-[4-[3-[4-[[4-methyl-1-[(2R,3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenoxy]propyl]-4,9-diazaspiro[5.5]undecan-9-yl]-2-oxo-ethyl]urea
Cool a mixture of [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[3-[9-[2-(isobutylcarbamoylamino)acetyl]-4,9-diazaspiro[5.5]undecan-4-yl]propoxy]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate (74.28 mmoles; 68.20 g) and methanol (341.00 mL) in an ice-bath. Add sodium methoxide (111.43 mmoles; 6.02 g). Stir the mixture for 10 minutes. Pour the mixture into water (3.5 L), then filter the mixture. Wash the solid with water, dry on the sinter, and further dry in a vacuum oven at 60° C. to give the title compound (49.8 g, 89% yield) mass spectrum (m/z): 750.6 (M+1).

reactant | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[[4-[3-[9-[2-(isobutylcarbamoylamino)acetyl]-4,9-diazaspiro[5.5]undecan-4-yl]propoxy]phenyl]methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 74.28 mmoles, 68.20 g | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)OCCCN1CCCC2(C1)CCN(CC2)C(CNC(NCC(C)C)=O)=O | C49H67N5O12
reactant | methanol | 341.00 mL | CO | CH4O
reactant | sodium methoxide | 111.43 mmoles, 6.02 g | C[O-].[Na+]
solvent | water | 3.5 L | O | H2O
product | 1-isobutyl-3-[2-[4-[3-[4-[[4-methyl-1-[(2R,3R,4S,5S,6R)-3,4,5-trihydroxy-6-(hydroxymethyl)tetrahydropyran-2-yl]indol-3-yl]methyl]phenoxy]propyl]-4,9-diazaspiro[5.5]undecan-9-yl]-2-oxo-ethyl]urea | 49.8 g, 89% yield | C(C(C)C)NC(=O)NCC(=O)N1CCC2(CN(CCC2)CCCOC2=CC=C(C=C2)CC2=CN(C3=CC=CC(=C23)C)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO)CC1 | C41H59N5O8
